Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clindamycin
 
Attending: ___.
 
Chief Complaint:
Left leg pain
 
Major Surgical or Invasive Procedure:
___ ___ guided left calf fluid aspiration
 
History of Present Illness:
___ female, history of ?schizophrenia, left calf fluid
collection status post aspiration on ___ at the ___ emergency
department per report from patient, s/p one month admission at
___ psychiatric ward, presents with left lower extremity pain.
Patient reports chronic venous stasis changes in her lower
extremities for approximately ___ year. However 1 month ago she
states that she developed acute onset of left-sided calf pain.
She had an ultrasound done which did not demonstrate any clot 
but
did show a small fluid collection. Reportedly per the patient,
aspiration was attempted by the ___ ER. She was hospitalized due
to pain and difficulty with walking. Was recently discharged 
from
the psych floor at ___, per records discharged to shelter, but
then returned within hours as shelter did not allow her to stay
since she could not ambulate. Per notes, she was accepted back 
to
the psych floor at ___ but declined admission. Per notes did not
meet ___ criteria. 

She represented to the emergency department at ___ because she
wants to be admitted to a different hospital. 2 brothers were
present in ED and helped explain situation. 

The patient denies any changes in swelling in her lower
extremity. She denies any infectious symptoms including fevers 
or
chills. She denies any chest pain or shortness of breath. She
states that prior to 1 month ago she is able to walk normally.
States she has been unable to walk in the last month.

In the ED, initial vitals were:  96.4 123/65 82 18 100%RA

- Exam notable for:  
Gen: Does not appear uncomfortable or in acute distress
HEENT: NC/AT. EOMI. 
Neck: No swelling. 
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Abd: Soft, NT, ND. 
Ext: Her lower extremities have chronic venous stasis changes.
There is no obvious ulcerations. In the left calf, there is a
small 1 cm x 1 cm area palpation it feels like a circumscribed
cyst. There is nothing in the posterior knee that is tender or
feels like a fluid collection
Skin: No rash. 
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. Denies SI or HI. Denies auditory
hallucinations or visual hallucinations
Heme: No petechial

- Labs notable for:  Hgb 10.8 (10.1 last week at ___. Normal
chemistry panel.

EXAMINATION: Ultrasound-guided aspiration of left lower 
extremity
collection
Successful US-guided aspiration of left posteromedial calf
superficial collection. 1 cc serosanguineous fluid was aspirated
and sent for microbiology evaluation. 

LENIs (left): 
No evidence of deep venous thrombosis in the left lower 
extremity
veins. In patient's area of pain in the left calf, there is
ill-defined fluid and edema in the subcutaneous tissues.
 
- Patient was given:  

___ 01:57 PO Acetaminophen 1000 mg
___ 01:57 PO Ibuprofen 600 mg 

Upon arrival to the floor, patient is an unreliable historian,
tangential at times. Reports her main concern right now is her
breathing and "toe crunching". Describes that her nose is
congested, not her chest. She also says she ate tilapia and had
diarrhea and "gets diarrhea sometimes when she eats things". She
reports that she "has a lot of fluid coming out of her" after
drinking coconut water. She reports beig involuntarily
hospitalized at ___ recently, and they did something to her leg
without her permission. In terms of leg pain, reports she s able
to walk but the leg "drags". Pain not that bad right now. 
 
Past Medical History:
Heart murmur
leg fracture
?schizophrenia
 
Social History:
___
Family History:
Mother: CHF
Father: ___
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  98.1 PO 99 / 63 88 20 100 ra 
GENERAL: NAD, speaking quickly 
HEENT: PERLA, MMM, oropharynx clear 
NECK: ___ anterior and posterior cervical chain.
CARDIAC:  S1/S2 RRR
LUNGS:  CTAB. no respiratory distress
ABDOMEN:  NBS, soft, nontender, Nondistended
EXTREMITIES:  ___ with chronic stasis changes, biopsy ste with
dressing in place. No swelling. No pain to palpation. RLE 
minimal
stasis changes
Back: No spinal TTP
NEUROLOGIC:  AAOx3. UE strength intact. ___ patient refused to
test ___ extension. ankle plantar/dorsi flexion ___. Difficult ot
interperet sensory exam due to patient noncompliance
Psych: 
Appearance: Somewhat disheveled
Behavior: follows commands, somewhat distracted by minor things
Attitude: cooperative
LOC: appropriate
Orientation: AAOx3
Speech: talkative, somewhat pressured, clear
Mood: very good
Affect: appropriate, even
Thought process: tangential
Thought conent: no hallucinations/delusion. ?illusions 
(decreibes
some color tinting?)
Suicide/homicide: none
Insight/judgment: 
Attention: World backwards
Memory: ___ without clue, ___ with clue
Intellect: knew ___, ___

DISCHARGE PHYSICAL EXAM:  
VS:  98.2 PO 109 / 71 81 16 99 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM. Fullness of 
thyroid, no ant/posterior/post auricular LAD
HEART: RRR, S1/S2, ___ systolic murmur loudest at LLSB 
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: warm and well perfused. diffuse xerosis of skin, no 
edema. Incision site c/d/I on ___. Strength ___ in RLE, 4+/5 in 
___ when tested with distraction although exam limited by 
effort. Sensation intact to light touch diffusely in lower 
extremities. 
LYMPH NODES: No axillary LAD. L palpable non-tender inguinal 
lymph node x 1 measuring ~ 1-1.5 cm. R small, mobile, non-tender 
inguinal lymph node x 2 measuring ~ 0.5 cm 
PULSES: 2+ DP pulses bilaterally  
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 01:35AM BLOOD WBC-5.5 RBC-4.13 Hgb-10.8* Hct-35.0 
MCV-85 MCH-26.2 MCHC-30.9* RDW-15.9* RDWSD-49.1* Plt ___
___ 01:35AM BLOOD Glucose-84 UreaN-19 Creat-0.7 Na-137 
K-4.9 Cl-100 HCO3-25 AnGap-12

==============
PERTINENT LABS
==============
___ 06:30AM BLOOD calTIBC-322 VitB12-242 Ferritn-67 TRF-248
___ 07:30AM BLOOD TSH-2.4
___ 07:30AM BLOOD HIV Ab-NEG
___ 06:40AM BLOOD ALT-32 AST-23 LD(LDH)-238 AlkPhos-83 
TotBili-0.3

============
MICROBIOLOGY
============
___ 11:45 am ABSCESS      Source: L calf. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ MONOSPOT: pending
___ RPR: pending

=======
IMAGING
=======
___ LLENI
No evidence of deep venous thrombosis in the left lower 
extremity veins.  In patient's area of pain in the left calf, 
there is ill-defined fluid and edema in the subcutaneous 
tissues. 

___ ___ left calf fluid aspiration
Successful US-guided aspiration of left posteromedial calf 
superficial 
collection.  1 cc serosanguineous fluid was aspirated and sent 
for 
microbiology evaluation. 

==============
DISCHARGE LABS
==============
___ 07:30AM BLOOD WBC-4.7 RBC-4.06 Hgb-10.7* Hct-34.9 
MCV-86 MCH-26.4 MCHC-30.7* RDW-15.9* RDWSD-49.3* Plt ___
___ 06:30AM BLOOD Glucose-88 UreaN-21* Creat-0.7 Na-140 
K-4.7 Cl-104 HCO3-25 AnGap-___ female with PMH of schizophrenia with recent ___ 
inpatient psychiatric admission, left calf fluid collection s/p 
aspiration on ___ at ___ who presented with reaccumulation of 
cyst and worsening ___ pain/weakness.  

# L calf cyst/fluid collection: She underwent aspiration on 
___ at ___, now s/p ___ ultrasound guided aspiration in the ED 
on ___. She had a similar fluid collection during ___ 
hospitalization, treated with I/D and possible ABx.  She was 
started on a 7-day course of bactrim on her most recent 
presentation to ___ on ___, but did not complete course. She did 
not have systemic or local signs of infection so antibiotics 
were not started. Aspirate fluid was sent for microbiologic 
culture and grew very sparse CoNS at time of discharge. ID was 
consulted and felt likely contaminant, did not recommend 
antimicrobial therapy. ___ negative.  Pt did well without 
any fevers, leukocytosis or local signs of cellulitis. Pain was 
controlled with acetaminophen and exam remained unchanged 
throughout admission.  

# ___ weakness: Patient reported feeling of being unable to move 
her left lower extremity. Thorough neuro exam completed and did 
not demonstrate true neuro-muscular weakness on exam and 
neurological exam was normal. Subjective lower extremity 
weakness likely secondary to pain/discomfort from fluid 
collection and improved during hospitalization. She was able to 
ambulate independently by time of discharge. She was seen by ___ 
who recommended home with crutches and both pt/family felt that 
her ambulation was improving steadily.

# Lower extremity xerosis
# Chronic venous stasis: significant dry skin w/ 
hyperpigmentation, no rash, noted on bilateral lower 
extremities. Encouraged moisturization 

# Nasal congestion: Patient reported change in breathing, found 
to have nasal congestion. Flu negative, likely viral URI given 
acute onset. Congestion is patient's primary symptom of concern 
and she was started on nasal spray, loratadine prn.  

# Inguinal LAD: Found to have 1 x left enlarged lymph node (~1.5 
cm) and 2x right lymph node ( ~ 0.5 cm, likely physiologic) 
which may represent reactive LAD from left lower extrmeity 
cyst/drainage although right sided involvement is atypical. HIV 
and monospot returned negative. RPR was also sent and pending at 
time of discharge. 

# Schizophrenia: Recent prolonged inpatient psych admission at 
___ through ___, appears to have returned about 1 hour after 
discharge to shelter and offered voluntary re-admission to ___ 
psych floor, which she declined. Did not meet criteria for 
___ per documentation. Patient with some evidence of 
tangential and odd thoughts but no frank 
hallucinations/delusions.  Pt remained AAOx3 without active 
SI/HI.   Pt was very resistant about this diagnosis and does not 
feel that she has psychiatric illness.  Prior to admission, pt 
had been started on monthly injections of paliperidone, last 
___. She will be due for paliperidone 234 mg qd in 1 month. 
She is not yet established with outpatient psychiatry. Inpatient 
psychiatry was consulted during this admission and helped 
coordinate discharge planning to a crisis stabilization unit.   
Pt will need psych follow up after discharge from crisis unit 
and PCP follow up scheduled at ___

# Anemia: Normocytic anemia, no recent data within BI system. 
B12 low but wnl (suspect due to poor nutritional intake), Fe 
wnl. Started on B12 supplementation

# Disposition: patient was discharged to a crisis stabilization 
unit for social support and respite. Both patient and two 
brothers agreed to plan.  Pt has many siblings in the area and 
agreed to go to the crisis unit voluntarily.   Social work and 
psychiatry followed throughout inpatient hospitalization. 

TRANSITIONAL ISSUES
- Patient will need the next dose of paliperidone 234 mg in 1 
month (___)
- Patient will need to be referred/established with an 
outpatient psychiatrist
- ___ B12 supplementation, repeat levels
- RPR pending at time of discharge
- PCP ___ to assess for interval resolution of inguinal LAD
- Patient has filed a ___ (department of mental health) 
application, which is pending. Social work is reaching out to 
their team (___ Homeless Outreach Team) to see if there is 
additional support available for patient. Would recommend 
following up with DMH/social work to see if patient would be 
eligible for group home, provided patient is willing to reside 
there
- Patient has filled Mass Health application, which is pending 

#CODE: Full (presumed)
#CONTACT: brother ___ is ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PALIperidone Palmitate 234 mg IM Q1MO (___) 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Sodium Chloride Nasal ___ SPRY NU QID:PRN nasal congestion 
RX *sodium chloride 0.65 % 1 spray IH TID prn Disp #*1 Spray 
Refills:*0 
3.  PALIperidone Palmitate 234 mg IM Q1MO (___)  
4.Crutches
Regular crutches
Dx: Left leg pain - ___.___
Prognosis: good. ___: 13 months

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left calf cyst 
Left leg pain 
Upper respiratory viral infection
Schizophrenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted due 
to left leg pain and weakness. You had a small fluid collection 
on the back of your leg that was drained. The fluid did not show 
any evidence of infection. You were seen by the infectious 
disease physicians who examined you and looked through your 
laboratory data and did not feel that you had an infection 
during this hospitalization. You also had an ultrasound of your 
leg that was reassuring. You were evaluated by the physical 
therapists and, because you could walk independently, felt to be 
safe to leave the hospital, with use of crutches. You did have 
some lymph nodes in your groin that were slightly enlarged so 
some blood tests were checked. They were likely a little 
enlarged from the small fluid collection in your leg. You should 
follow up with your primary care physician about those results.

You did report some nasal congestion, which is likely from a 
viral upper respiratory infection like the common cold. You were 
started on a nasal spray to improve the congestion. 

Your bloodwork showed that your B12 (a vitamin) was a little low 
but within normal limits. You were started on a vitamin 
supplement. 

It is very important that you follow up with your appointments 
as below.

Wishing you well,

Your ___ Care Team 
 
Followup Instructions:
___